US07671060B2
5-[3-[(2S)-1-(Difluoromethoxy)propan-2-yl]oxy-5-(1H-pyrazol-3-ylcarbamoyl)phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide
Trifluoroacetic acid (2 mL) was added to a solution of tert-butyl 3-[[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoyl]amino]pyrazole-1-carboxylate (150 mg, 0.26 mmol) in DCM (16 mL) and stirred at RT for 2 hours. The solvent was removed in vacuo, DCM (20 mL) added and the mixture washed with water (20 mL), saturated sodium bicarbonate solution (20 mL), brine (20 mL), dried (MgSO4) and reduced in vacuo to give the desired compound (94 mg).

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-[[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoyl]amino]pyrazole-1-carboxylate | 0.26 mmol, 150 mg | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)OC1=NC=C(N=C1)C(N(C)C)=O)F | C26H30F2N6O7
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
product | 5-[3-[(2S)-1-(Difluoromethoxy)propan-2-yl]oxy-5-(1H-pyrazol-3-ylcarbamoyl)phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide | 94 mg | FC(OC[C@H](C)OC=1C=C(OC=2N=CC(=NC2)C(=O)N(C)C)C=C(C1)C(NC1=NNC=C1)=O)F | C21H22F2N6O5
